US07812183B2
4-(5-Difluoromethoxy-1H-benzoimidazol-2-ylsulfanyl)-3-hydroxy-2,2-dimethyl-chroman-6-carbonitrile (Compound #16)
Following the procedure in Example 1, using (±)-2,2-dimethyl-1a,7b-dihydro-2H-1,3-dioxa-cyclopropa[a]naphthalene-6-carbonitrile and 5-difluoromethoxy-1H-benzoimidazole-2-thiol as starting material, the title compound was prepared as a white solid.

reactant | (±)-2,2-dimethyl-1a,7b-dihydro-2H-1,3-dioxa-cyclopropa[a]naphthalene-6-carbonitrile | CC1(C2C(C3=CC(=CC=C3O1)C#N)O2)C | C12H11NO2
reactant | 5-difluoromethoxy-1H-benzoimidazole-2-thiol | FC(OC1=CC2=C(NC(=N2)S)C=C1)F | C8H6F2N2OS
product | 4-(5-Difluoromethoxy-1H-benzoimidazol-2-ylsulfanyl)-3-hydroxy-2,2-dimethyl-chroman-6-carbonitrile | FC(OC1=CC2=C(NC(=N2)SC2C(C(OC3=CC=C(C=C23)C#N)(C)C)O)C=C1)F | C20H17F2N3O3S
